US08466282B2
Tert-butyl (3S,5S)-3-[(2-methylpropyl)amino]-5-[(2-oxopyrrolidin-1-yl)methyl]piperidine-1-carboxylate
To a solution of tert-butyl (3S,5R)-3-{[(benzyloxy)carbonyl](2-methylpropyl)amino}-5-(hydroxymethyl)piperidine-1-carboxylate (0.47 g) in THF (15 ml) were added phthalimide (0.40 g), diisopropyl azodicarboxylate (1.59 g) and triphenylphosphine (0.66 g) at room temperature, and the mixture was stirred at room temperature for 15 hr. The reaction mixture was concentrated under reduced pressure, the residue was diluted with water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel chromatography, and a fraction eluted with ethyl acetate-hexane (1:9-1:2) was concentrated under reduced pressure. The obtained residue was dissolved in ethanol (10 ml), hydrazine hydrate (95 μl) was added, and the mixture was heated under reflux for 3 hr. The mixture was allowed to cool to room temperature, the precipitate was filtered off, and the filtrate was concentrated under reduced pressure. The residue was dissolved in THF (5 ml), diisopropylethylamine (0.29 μl) and 4-bromobutyryl chloride (0.16 ml) were added at 0° C., and the mixture was stirred at 0° C. for 1 hr. The reaction mixture was diluted with water, and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was dissolved in THF (10 ml), potassium tert-butoxide (0.38 g) was added at 0° C., and the mixture was stirred at 0° C. for 1 hr. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel chromatography, and a fraction eluted with ethyl acetate-hexane (1:3-1:0) was concentrated under reduced pressure. The residue was dissolved in ethanol (10 ml), and 10% palladium-carbon (50% in water: 50 mg) was added. The reaction mixture was stirred under a hydrogen (normal pressure) at room temperature for 15 hr. The palladium catalyst was filtered off, and the filtrate was concentrated under reduced pressure to give the object product (0.30 g).

reactant | tert-butyl (3S,5R)-3-{[(benzyloxy)carbonyl](2-methylpropyl)amino}-5-(hydroxymethyl)piperidine-1-carboxylate | 0.47 g | C(C1=CC=CC=C1)OC(=O)N([C@@H]1CN(C[C@@H](C1)CO)C(=O)OC(C)(C)C)CC(C)C | C23H36N2O5
reactant | phthalimide | 0.40 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | diisopropyl azodicarboxylate | 1.59 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 0.66 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | Tert-butyl (3S,5S)-3-[(2-methylpropyl)amino]-5-[(2-oxopyrrolidin-1-yl)methyl]piperidine-1-carboxylate | 0.30 g | CC(CN[C@@H]1CN(C[C@@H](C1)CN1C(CCC1)=O)C(=O)OC(C)(C)C)C | C19H35N3O3
